US06180636B2
144 mg (0.50 mmol) of 6-aminocarbonyl-4-(3-chloroanilino)-7H-pyrrolo[2,3-d]pyrimidine and 202 mg (0.5 mmol) of Lawesson's reagent in 5 ml of THF are heated to boiling for 17 h and the mixture is then evaporated. Column chromatography (SiO2, CH2Cl2/ethanol=15:1) of the residue and stirring in diethyl ether yields 4-(3-chloroanilino)-6-(thiocarbamoyl)-7H-pyrrolo[2,3-d]pyrimidine; HPLC: tRet(Grad20)=9.8; TLC-Rf=0.44 (CH2Cl2/methanol=10:1); FAB-MS: (M+H)+=304; IR: (KBr) inter alia 1614s, 1566s, 1506m, 1474s, 1380m, 1354m, 1294m, 1134m.

reactant | 6-aminocarbonyl-4-(3-chloroanilino)-7H-pyrrolo[2,3-d]pyrimidine | 0.50 mmol, 144 mg | NC(=O)C1=CC2=C(N=CN=C2NC2=CC(=CC=C2)Cl)N1 | C13H10ClN5O
reactant | Lawesson's reagent | 0.5 mmol, 202 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-(3-chloroanilino)-6-(thiocarbamoyl)-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C=C(NC=2C3=C(N=CN2)NC(=C3)C(N)=S)C=CC1 | C13H10ClN5S
